US04228170
To a solution of (11.7 g., 0.06 m.) 8-chloro-7-mercaptoisoquinoline in 150 ml. of methylene chloride was added a solution of 1 M borane-methylsulfide complex (120 ml., 0.12 m.). The addition was carried out dropwise with stirring under a nitrogen atmosphere. After stirring for half an hour the reaction mixture was refluxed for 2.5 hours, cooled to 5° C., and treated with 135 ml. of methanol dropwise. The reaction mixture was evaporated to a residue under reduced pressure and was then repeatedly evaporated from methanol. The residue was dissolved in methanol and treated with ethereal hydrogen chloride. The resulting precipitate was collected by filtration and dried to give 8-chloro-7-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride, m.p. 230°-234° C. dec.

reactant | 8-chloro-7-mercaptoisoquinoline | 11.7 g | ClC=1C(=CC=C2C=CN=CC12)S | C9H6ClNS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 8-chloro-7-mercapto-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC=1C(=CC=C2CCNCC12)S | InChI=1S/C9H10ClNS.ClH/c10-9-7-5-11-4-3-6(7)1-2-8(9)12;/h1-2,11-12H,3-5H2;1H
